US06573274B1
A mixture of methyl 3-(4-acetoxy-2-chlorobenzyl)-2,7-dimethyl-3H-imidazo[4,5-b]pyridine-5-carboxylate (6.5 g), conc. sulfuric acid (3.0 ml) and methanol (60 ml) was refluxed under heating for 1.5 hr. The reaction mixture was diluted with chloroform (60 ml) and saturated aqueous sodium hydrogen carbonate solution was gradually added under ice-cooling. The organic layer was separated, dried over magnesium sulfate and concentrated to dryness under reduced pressure. The residue was washed with diethyl ether to give methyl 3-(2-chloro-4-hydroxybenzyl)-2,7-dimethyl-3H-imidazo[4,5-b]pyridine-5-carboxylate (3.81 g) as a pale-yellow powder.

reactant | methyl 3-(4-acetoxy-2-chlorobenzyl)-2,7-dimethyl-3H-imidazo[4,5-b]pyridine-5-carboxylate | 6.5 g | C(C)(=O)OC1=CC(=C(CN2C(=NC=3C2=NC(=CC3C)C(=O)OC)C)C=C1)Cl | C19H18ClN3O4
reactant | sulfuric acid | 3.0 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 60 ml | CO | CH4O
solvent | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | methyl 3-(2-chloro-4-hydroxybenzyl)-2,7-dimethyl-3H-imidazo[4,5-b]pyridine-5-carboxylate | 3.81 g | ClC1=C(CN2C(=NC=3C2=NC(=CC3C)C(=O)OC)C)C=CC(=C1)O | C17H16ClN3O3
